US09447090B2
To 130 mg of 3-[({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)sulfonyl]propyl acetate were added 2 ml of methanol, 2 ml of THF, and 1 ml of a 1 M aqueous sodium hydroxide solution, followed by stirring for 8.5 hours. The solvent was evaporated under reduced pressure and to the obtained residue were added water and 1 M hydrochloric acid. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography. To the obtained purified product were added ethyl acetate and hexane, followed by stirring. The resulting solid was collected by filtration and dried to obtain 41 mg of 8-(cyclohexylmethoxy)-N-[(3-hydroxypropyl)sulfonyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | 3-[({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)sulfonyl]propyl acetate | 130 mg | C(C)(=O)OCCCS(=O)(=O)NC(=O)C1=C(N=C2N1C=CC=C2OCC2CCCCC2)C | C21H29N3O6S
reactant | methanol | 2 ml | CO | CH4O
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 8-(cyclohexylmethoxy)-N-[(3-hydroxypropyl)sulfonyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 41 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)NS(=O)(=O)CCCO | C19H27N3O5S
